data/mechanism_extracts/OrgBiomolChem/10.1039_d4ob01483a.json
{"doi": "10.1039_d4ob01483a", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical intramolecular oxyselenenylation of alkenyl alcohols with diaryl diselenides to access selenium-functionalized oxygen-containing heterocycles (benzoxepines/benzodioxepines)", "mechanism_family": ["radical_anodic", "radical_cation", "cation_initiated"], "electrochemical_role": "Anodic oxidation of diphenyl diselenide (2a) to a diselenide radical cation that fragments to PhSe• and PhSe+; cathode reduces protons to H2", "key_intermediates": [{"name": "diphenyl diselenide radical cation [PhSeSePh]•+", "smiles": "[Se+]([Se]c1ccccc1)c1ccccc1", "role": "transient"}, {"name": "phenylselanyl radical PhSe•", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "carbon-centered radical adduct (Int II) from PhSe• addition to alkene", "smiles": null, "role": "reactive"}, {"name": "carbocation (Int III) after anodic oxidation of C-radical", "smiles": null, "role": "reactive"}, {"name": "cyclized oxocarbenium/protonated ether prior to deprotonation", "smiles": null, "role": "transient"}], "electron_flow": "At the anode, PhSeSePh is oxidized to its radical cation and fragments to PhSe• (and PhSe+/half equiv PhSeSePh); PhSe• adds to the pendant alkene of the alkenyl alcohol to give a C-radical, which is further oxidized at the anode to a carbocation that is trapped intramolecularly by the tethered hydroxyl, followed by deprotonation; the cathode reduces H+ to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Only trace 3aa; TEMPO–SePh adduct detected by HRMS, supporting PhSe• radical intermediate"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Only trace 3aa formed, indicating radical pathway"}, {"name": "H2O (added)", "smiles": "O", "purpose": "other", "observation": "Excess water suppresses product formation"}, {"name": "PhSSPh (2f)", "smiles": "c1ccc(SSc2ccccc2)cc1", "purpose": "intermediate_trap", "observation": "No reaction — PhS• not generated under these conditions"}, {"name": "PhTeTePh (2g)", "smiles": "c1ccc([Te][Te]c2ccccc2)cc1", "purpose": "intermediate_trap", "observation": "No reaction — PhTe• not generated"}, {"name": "Cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "Diselenide 2a oxidizes at lower potential than substrate 1a, indicating 2a is the species oxidized at the anode"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Authors propose alkene functionalization is initiated by anodically generated PhSe• (not by direct oxidation of substrate), supported by CV showing 2a is more easily oxidized than 1a. Alternative S- and Te-based analogues fail, consistent with selectivity for Se radical generation. Water content critically influences yield, suggesting competing hydrolysis/oxidation side pathways."}
